US06248739B1
N-(4-Chlorobenzyl)-1-[(2-methoxyethoxy)methyl]-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide
A suspension of N-(4-chlorobenzyl-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide (0.21 gm) from Preparation No. 40 and cesium carbonate (0.34 gm) in DMF (2 mL) is treated with 2-methoxyethoxymethyl chloride (0.07 mL). The mixture is tightly capped and heated to 100° C. for 3 hrs. The reaction mixture is allowed to cool to room temperature, diluted with dichloromethane and washed with water. The aqueous phase is extracted with two additional portions of dichloromethane. The combined organic phase is washed with brine, dried (Na2SO4) and concentrated under reduced pressure. The crude product is purified by flash column chromatography eluting with 1% to 5% methanol in dichloromethane and then by recrystallization with acetonitrile to afford 0.08 gm of the title compound as a white solid.

reactant | 4-chlorobenzyl-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide | 0.21 gm | ClC1=CC=C(CC2=NC3=CC=C(C=C3C(=C2C(=O)N)O)CN2CCOCC2)C=C1 | C22H22ClN3O3
reactant | cesium carbonate | 0.34 gm | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-methoxyethoxymethyl chloride | 0.07 mL | COCCOCCl | C4H9ClO2
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-1-[(2-methoxyethoxy)methyl]-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 0.08 gm | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CN2CCOCC2)COCCOC)C=C1 | C26H30ClN3O5
